US05087637
3,5-Di-tert-butylphenylacetylene
73.7 g (0.655 mol) of potassium tert-butanolate were added a little at a time to 117.6 g (0.269 mol) of bromomethyltriphenylphosphonium bromide in 420 ml of dry tetrahydrofuran at 25° C. while cooling. The reaction mixture was then stirred for half an hour and, at -70° C., a solution of 50 g (0.218 mol) of 3,5-di-tertbutylbenzaldehyde in 120 ml of dry tetrahydrofuran was added dropwise. After half an hour, the mixture was allowed to warm to room temperature, and was then stirred overnight and poured into water. Extraction with ether, washing of the organic phase with water, drying over sodium sulfate and evaporation of the solvent produced a viscous residue.

reactant | potassium tert-butanolate | 0.655 mol, 73.7 g | C(C)(C)(C)[O-].[K+]
reactant | bromomethyltriphenylphosphonium bromide | 0.269 mol, 117.6 g | [Br-].BrC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3,5-di-tertbutylbenzaldehyde | 0.218 mol, 50 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1)C(C)(C)C | C15H22O
reactant | water | O | H2O
solvent | tetrahydrofuran | 420 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 3,5-Di-tert-butylphenylacetylene | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)C#C | C16H22
